US04552604
EPOXIDE RESIN IV
denotes a solid diglycidyl ether of 2,2-bis(p-hydroxyphenyl)-propane which had been advanced with 2,2-bis(3,5-dibromo-4-hydroxyphenyl)propane, of epoxide content 2.1 equiv./kg.

reactant | diglycidyl ether of 2,2-bis(p-hydroxyphenyl)-propane | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | 2,2-bis(3,5-dibromo-4-hydroxyphenyl)propane | BrC=1C=C(C=C(C1O)Br)C(C)(C)C1=CC(=C(C(=C1)Br)O)Br | C15H12Br4O2
product | EPOXIDE RESIN | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
